US05650428
Triethylamine (480 μl) and pivaloyl chloride (175 μl) were added to a solution of (RS)-2-(4-chlorobenzenesulfonylamino)-3-phenylpropanoic acid (301.7 mg) in THF (5 ml), and the whole was stirred for 2 hours. After methyl 4-aminophenylpropionate hydrochloride (229.8 mg) was added, the whole was stirred at room temperature overnight. The reaction mixture was poured into a saturated saline solution and extracted with ethyl acetate. The combined ethyl acetate layers were washed with a saturated saline solution, and dried over Na2SO4. The solvent was evaporated under reduced pressure to obtain a yellow oil. The product was purified by column chromatography (silica gel 50 g, hexane/ethyl acetate=3/1) to obtain (RS)-2-(4-chlorobenzenesulfonylamino)-N-(4-(2-methoxycarbonylethyl) phenyl)-3-phenylpropanamide (40.4 mg).

reactant | Triethylamine | 480 μl | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 175 μl | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | (RS)-2-(4-chlorobenzenesulfonylamino)-3-phenylpropanoic acid | 301.7 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)O)CC1=CC=CC=C1 | C15H14ClNO4S
reactant | methyl 4-aminophenylpropionate hydrochloride | 229.8 mg | Cl.NC1=CC=C(C=C1)C(C(=O)OC)C
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (RS)-2-(4-chlorobenzenesulfonylamino)-N-(4-(2-methoxycarbonylethyl) phenyl)-3-phenylpropanamide | 40.4 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NC1=CC=C(C=C1)CCC(=O)OC)CC1=CC=CC=C1 | C25H25ClN2O5S
